US05994368
To a solution of 1,3-dichloro-4-triisopropylsilyloxybenzene (6.00 g) in tetrahydrofuran (50 ml) at -60° C. was added dropwise n-butyllithium, 1.6M solution of hexane (12.9 ml) over 30 minutes under nitrogen and the mixture was stirred for 1 hour at the same temperature. A solution of ethyl chloroformate in tetrahydrofuran (20 ml) was added dropwise to the mixture over 20 minutes at -60° C. The resulting mixture is stirred for 1 hour at -60° C., the cooling bath was removed, and temperature was allowed to rise to 20° C. A solution of ammonium chloride (2 g) in water (37 ml) was then added over 5 minutes followed by ethyl acetate (40 ml) and brine (40 ml). The organic layer was separated, washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel eluting with a mixture of ethyl acetate and hexane (1:10 to 1:6) to give ethyl 2,6-dichloro-3-triisopropylsilyloxybenzoate (1.59 g) as an oil.

reactant | 1,3-dichloro-4-triisopropylsilyloxybenzene | 6.00 g | ClC1=CC(=C(C=C1)O[Si](C(C)C)(C(C)C)C(C)C)Cl | C15H24Cl2OSi
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 12.9 ml | CCCCCC | C6H14
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | ethyl 2,6-dichloro-3-triisopropylsilyloxybenzoate | 1.59 g | ClC1=C(C(=O)OCC)C(=CC=C1O[Si](C(C)C)(C(C)C)C(C)C)Cl | C18H28Cl2O3Si
